US08754229B2
Methyl 4-amino-6-bromo-3-methoxypicolinate (2 g, 7.66 mmol), tributyl(1-ethoxyvinyl)stannane (4.15 g, 11.49 mmol) and bis(triphenylphosphine)palladium(ii) chloride (0.807 g, 1.149 mmol) in DCE (19.15 ml) were stirred under microwave irradiation (120° C., 30 min). The reaction was not completed (LC). Additional tin reagent (1 equiv) and palladium catalyst (0.15 equiv) were added and the reaction mixture was stirred under microwave irradiation (120° C., 30 min). The mixture was adsorbed onto celite and purified by flash column chromatography (ISCO, SiO2 80 g, hexane/EtOAc 100:0 to 0:100 gradient) to afford methyl 4-amino-6-(1-ethoxyvinyl)-3-methoxypicolinate (1.68 g, 6.66 mmol, 87% yield) as a yellow solid. Mp 72-73° C.; EIMS m/z 253 ([M+H]+); 1H NMR (400 MHz, CDCl3) δ 7.15 (s, 1H), 5.34 (d, J=2.0 Hz, 1H), 4.45 (s, 2H), 4.31 (d, J=1.9 Hz, 1H), 3.96 (s, 3H), 3.92 (q, J=7 Hz, 2H), 3.86 (s, 3H), 1.41 (t, J=7.0 Hz, 3H).

reactant | Methyl 4-amino-6-bromo-3-methoxypicolinate | 7.66 mmol, 2 g | NC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H9BrN2O3
reactant | tributyl(1-ethoxyvinyl)stannane | 11.49 mmol, 4.15 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | tin | 1 equiv | [Sn] | Sn
solvent | DCE | 19.15 ml | ClCCCl | C2H4Cl2
catalyst | palladium | 0.15 equiv | [Pd] | Pd
catalyst | bis(triphenylphosphine)palladium(ii) chloride | 1.149 mmol, 0.807 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-amino-6-(1-ethoxyvinyl)-3-methoxypicolinate | 6.66 mmol, 1.68 g, 87% yield | NC1=C(C(=NC(=C1)C(=C)OCC)C(=O)OC)OC | C12H16N2O4
